US06033601
1-octylindole;
1-benzylindole; 1-tosylindole; 1-tosylindole; 3-hexanoxyl-1-tosylindole; 3-hexanoylindole; 3-hexylindole; 3-dodecanoyl-1-tosylindole; 3-dodecanoylindole and 3-dodecylindole.

reactant | 1-benzylindole | C(C1=CC=CC=C1)N1C=CC2=CC=CC=C12 | C15H13N
reactant | 1-tosylindole | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=CC=CC=C12 | C15H13NO2S
reactant | 3-hexanoylindole | C(CCCCC)(=O)C1=CNC2=CC=CC=C12 | C14H17NO
reactant | 3-hexylindole | C(CCCCC)C1=CNC2=CC=CC=C12 | C14H19N
reactant | 3-dodecanoyl-1-tosylindole | C(CCCCCCCCCCC)(=O)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C)C=C1 | C27H35NO3S
reactant | 3-dodecanoylindole | C(CCCCCCCCCCC)(=O)C1=CNC2=CC=CC=C12 | C20H29NO
reactant | 3-dodecylindole | C(CCCCCCCCCCC)C1=CNC2=CC=CC=C12 | C20H31N
product | 1-octylindole | C(CCCCCCC)N1C=CC2=CC=CC=C12 | C16H23N
